### PR TITLE
feat: introduce the Laplace operator

### PR DESCRIPTION
**Pull request by kebekus**
Introduce the Laplace operator for functions on real, finite-dimensional, inner product spaces.

This material is used in [Project VD](https://github.com/kebekus/ProjectVD), which aims to formalize Value Distribution Theory for meromorphic functions on the complex plane.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/ContDiff/Basic.lean [hunk 1]
```diff
@@ -274,6 +274,13 @@ theorem ContinuousLinearEquiv.iteratedFDerivWithin_comp_left (g : F ≃L[𝕜] G
       ContinuousLinearMap.compContinuousMultilinearMap_coe, EmbeddingLike.apply_eq_iff_eq]
     rw [iteratedFDerivWithin_succ_apply_left]
 
+/-- Iterated derivatives commute with left composition by continuous linear equivalences- -/
+theorem ContinuousLinearEquiv.iteratedFDeriv_comp_left {f : E → F} {x : E} (g : F ≃L[𝕜] G) {i : ℕ} :
+    iteratedFDeriv 𝕜 i (g ∘ f) x =
+      (g : F →L[𝕜] G).compContinuousMultilinearMap (iteratedFDeriv 𝕜 i f x) := by
+  simp only [← iteratedFDerivWithin_univ]
+  apply g.iteratedFDerivWithin_comp_left f uniqueDiffOn_univ trivial
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/ContDiff/Basic.lean:282]: Can this be `exact`?

File: Mathlib/Analysis/Calculus/ContDiff/Basic.lean [hunk 2]
```diff
@@ -274,6 +274,13 @@ theorem ContinuousLinearEquiv.iteratedFDerivWithin_comp_left (g : F ≃L[𝕜] G
       ContinuousLinearMap.compContinuousMultilinearMap_coe, EmbeddingLike.apply_eq_iff_eq]
     rw [iteratedFDerivWithin_succ_apply_left]
 
+/-- Iterated derivatives commute with left composition by continuous linear equivalences- -/
+theorem ContinuousLinearEquiv.iteratedFDeriv_comp_left {f : E → F} {x : E} (g : F ≃L[𝕜] G) {i : ℕ} :
+    iteratedFDeriv 𝕜 i (g ∘ f) x =
+      (g : F →L[𝕜] G).compContinuousMultilinearMap (iteratedFDeriv 𝕜 i f x) := by
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/ContDiff/Basic.lean]: Does writing `g.toContinuousLinearMap` work?

File: Mathlib/Analysis/InnerProductSpace/Laplace.lean [hunk 3]
```diff
@@ -0,0 +1,181 @@
...
+/--
+Definition of the Laplace operator for functions on real inner product spaces.
+-/
+noncomputable def Real.Laplace : E → F :=
+  fun x ↦ tensor_of_iteratedFDeriv_two ℝ f x (InnerProductSpace.canonicalCovariantTensor E)
+
+/--
+Introduce `Δ` as a notation for the Laplace operator.
+-/
+notation "Δ" => Real.Laplace
```
Comment (grunweg) [inline Mathlib/Analysis/InnerProductSpace/Laplace.lean:95]: Can you scope this notation? Other areas of mathematics (may or do) also use this.

**Review by grunweg — COMMENTED** [review]
Three small comments. Thanks a lot for working on this.

File: Mathlib/Analysis/Calculus/ContDiff/Basic.lean (hunk 1 above)
Comment (kebekus) [reply Mathlib/Analysis/Calculus/ContDiff/Basic.lean:282]: Negative. Using "exact" produces an error message:

```
type mismatch
  iteratedFDerivWithin_comp_left g f uniqueDiffOn_univ trivial
has type
  ∀ (i : ℕ),
    iteratedFDerivWithin 𝕜 i (⇑g ∘ f) univ ?m.153113 =
      (↑g).compContinuousMultilinearMap (iteratedFDerivWithin 𝕜 i f univ ?m.153113) : Prop
but is expected to have type
  iteratedFDerivWithin 𝕜 i (⇑g ∘ f) univ x =
    (↑g).compContinuousMultilinearMap (iteratedFDerivWithin 𝕜 i f univ x) : Prop
```

File: Mathlib/Analysis/Calculus/ContDiff/Basic.lean (hunk 2 above)
Comment (kebekus) [reply Mathlib/Analysis/Calculus/ContDiff/Basic.lean]: Yes, that works. Replaced `(g : F →L[𝕜] G)` by `g.toContinuousLinearMap` as suggested.

File: Mathlib/Analysis/InnerProductSpace/Laplace.lean (hunk 3 above)
Comment (kebekus) [reply Mathlib/Analysis/InnerProductSpace/Laplace.lean:95]: @grunweg I don't know what it means to "scope notation". Can you help?

**Comment by kebekus** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/26302
